US07560569B2
In a similar manner to Example 63, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and (1R)-1-phenylethylamine (43.4 μL) were used to obtain (2S,4S)-4-fluoro-1-[[N-[4-[N-[(1R)-1-phenyl-1-ethyl]amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile (22.8 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | (1R)-1-phenylethylamine | 43.4 μL | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
product | (2S,4S)-4-fluoro-1-[[N-[4-[N-[(1R)-1-phenyl-1-ethyl]amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile | 22.8 mg | F[C@H]1C[C@H](N(C1)C(CNC12CCC(CC1)(CC2)C(=O)N[C@H](C)C2=CC=CC=C2)=O)C#N | C24H31FN4O2
